US05798311
a: 2-dimethylamino-4'-chloroacetophenone
To 66 g (1460 mmole) of anhydrous dimethylamine in 200 ml of methylene chloride and cooled to -30° C. was added a solution of 155 g (664 mmole) of 2-bromo-4'-chloroacetophenone in 200 ml of methylene chloride. After the addition was complete the reaction was allowed to warm to 20° C. Concentration in vacuo, partitioning between diethyl ether and 1M aqueous sodium hydroxide, washing with brine, drying over anhydrous magnesium sulfate, and reconcentration in vacuo gives 130 g of the title compound, an oil.

reactant | dimethylamine | 1460 mmole, 66 g | CNC | C2H7N
reactant | 2-bromo-4'-chloroacetophenone | 664 mmole, 155 g | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-dimethylamino-4'-chloroacetophenone | 130 g | CN(CC(=O)C1=CC=C(C=C1)Cl)C | C10H12ClNO
